US05736539
1-[2(R)-tert-Butoxycarbonylamino-3-triphenylmethylthiopropionyl]-2(S)-n-butyl-4-(2,3-dimethylbenzoyl)piperazine
3(S)-n-Butyl-1-(2,3-dimethylbenzoyl)piperazine (0.240 g, 0.874 mmol) and 2(R)-tert-butoxycarbonylamino-3-triphenylmethylthiopropionic acid (0.405 g, 0.874 mmol) were dissolved in dimethylformamide. To this solution was added HOBT (0.114 g, 0.874 mmol), and EDC.HCl (0.184 g, 0.962 mmol). The reaction was stirred under nitrogen overnight. The dimethylformamide was removed in vacuo and the residue partitioned between ethyl acetate and water. The organic phase was washed with several portions of water, saturated sodium chloride solution, and dried over magnesium sulfate. Filtration and evaporation of solvent gave the crude product, which was chromatographed on silica gel with 50% ethyl acetate in hexane. The title compound as a white foam (0.620 g).

reactant | 3(S)-n-Butyl-1-(2,3-dimethylbenzoyl)piperazine | 0.874 mmol, 0.240 g | C(CCC)[C@H]1CN(CCN1)C(C1=C(C(=CC=C1)C)C)=O | C17H26N2O
reactant | 2(R)-tert-butoxycarbonylamino-3-triphenylmethylthiopropionic acid | 0.874 mmol, 0.405 g | C(C)(C)(C)OC(=O)N[C@@H](C(=S)O)CC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C27H29NO3S
reactant | HOBT | 0.874 mmol, 0.114 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC.HCl | 0.962 mmol, 0.184 g | CCN=C=NCCCN(C)C.Cl
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 1-[2(R)-tert-Butoxycarbonylamino-3-triphenylmethylthiopropionyl]-2(S)-n-butyl-4-(2,3-dimethylbenzoyl)piperazine | C(C)(C)(C)OC(=O)N[C@@H](C(=S)N1[C@H](CN(CC1)C(C1=C(C(=CC=C1)C)C)=O)CCCC)CC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C44H53N3O3S
